US09126957B2
Step 3. (1R,2S,3R,4R,5R)-2-Amino-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)cyclohexanol
A suspension of (1R,2S,3R,4R,5R)-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)-2-((tert-butoxycarbonyl)amino)cyclohexyl 4-nitrobenzoate (2.80 g, 4.02 mmol) and anhydrous K2CO3 (0.70 g, 0.51 mmol) in MeOH (100 mL) was stirred at room temperature for 2 h. The resulted clear solution was concentrated, and DCM (80 mL) was added. The mixture was washed with saturated aqueous NaHCO3 (60 mL), and the aqueous layer was further extracted with DCM (2×40 mL). The combined extract was dried over anhydrous Na2SO4. After filtration the solvent was evaporated under reduced pressure, and the residue was purified on silica gel by automatic flash column chromatography (EtOAc/hexanes, 1:3 to 1:1), affording a white solid. The solid was dissolved in mixed MeOH and EtOAc (30 mL, 2:1). HCl (g) was bubbled into the solution for 30 sec, and the mixture was stirred at room temperature for 2 h. The solvent was then removed, water (30 mL) was added and the mixture was basified with diluted aqueous NaOH solution. Extraction with DCM (2×40 mL) was performed, and the combined extract was dried over anhydrous Na2SO4. After filtration the solvent was evaporated under reduced pressure, affording the title compound as an off-white solid (1.54 g, 94%). 1H NMR (400 MHz, CDCl3) δ 7.37-7.25 (m, 15H), 4.98 (d, J=11.3 Hz, 1H), 4.84 (d, J=10.8 Hz, 1H), 4.69 (d, J=11.3 Hz, 1H), 4.56 (d, J=10.8 Hz, 1H), 4.47 (s, 2H), 3.64 (dd, J=4.9, 8.9 Hz, 1H), 3.54-3.48 (m, 2H), 3.34-3.30 (m, 1H), 3.19 (t, J=9.4 Hz, 1H), 2.53-2.50 (m, 1H), 2.08-2.02 (m, 1H), 1.75-1.72 (m, 1H), 1.59-1.52 (m, 1H).

reactant | (1R,2S,3R,4R,5R)-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)-2-((tert-butoxycarbonyl)amino)cyclohexyl 4-nitrobenzoate | 4.02 mmol, 2.80 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](C2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)NC(=O)OC(C)(C)C)C=C1 | C40H44N2O9
reactant | K2CO3 | 0.51 mmol, 0.70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (1R,2S,3R,4R,5R)-2-Amino-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)cyclohexanol | 1.54 g, 94% | N[C@H]1[C@@H](C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)O | C28H33NO4
